US05889002
6-Chloro-3-ethylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
Phosphorus pentoxide (2.84 g, 20 mmol), N,N-dimethylcyclohexylamine (3 ml, 20 mmol) and ethylamine hydrochloride (1.63 g, 20 mmol) were carefully mixed and heated with stirring on an oil bath at 180° C. for 20 min. To the homogeneous mass was added 6-chloro-2,3-dihydro-3-oxo-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (1.2 g, 5 mmol) and the mixture was stirred at 180° C. for 5 h. After cooling to ca. 100° C., water (150 ml) was added and the mixture was stirred for 1 h at room temperature. Then the mixture was extracted with ethyl acetate (3×100 ml). The organic phase was washed with saturated aqueous sodium hydrogen carbonate, dried and evaporated to dryness. The residue was recrystallised from ethyl acetate/methanol to give 282 mg (21%) of the pure title compound; m.p. 271°-274° C.; 1H-NMR (DMSO-d6): δ 1.11 (t, 3H, CH3), 3.22 (m, 2H, CH2), 7.04 (s,1H, 5-H), 7.3 (br. s, 1H, NH), 11.1 (br. s, 1H, NH); MS m/e: 265/267 (M+); (C7H8N3Cl1O2S2) calc. C 31.64 H 3.03 N 15.81, found C 31.57 H 3.12 N 15.63.

reactant | Phosphorus pentoxide | 20 mmol, 2.84 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | N,N-dimethylcyclohexylamine | 20 mmol, 3 ml | CN(C)C1CCCCC1 | C8H17N
reactant | ethylamine hydrochloride | 20 mmol, 1.63 g | Cl.C(C)N
reactant | 6-chloro-2,3-dihydro-3-oxo-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 5 mmol, 1.2 g | ClC1=CC=2NC(NS(C2S1)(=O)=O)=O | C5H3ClN2O3S2
solvent | water | 150 ml | O | H2O
product | 6-Chloro-3-ethylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 282 mg, 21% | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NCC | C7H8ClN3O2S2
